US08039472B2
DEAD (0.63 ml, 4 mmol) is added to a suspension of ((S)-1-Hydroxymethyl-3,3-dimethyl-pent-4-enyl)-carbamic acid tert-butyl ester (1 g, 4 mmol), phthalimide (588 mg, 4 mmol) and PS-triphenylphosphine (3.72 g, 8 mmol) in THF (50 ml) and the resulting solution is stirred at room temperature overnight. The resin is removed by filtration, and the filtrate concentrated in vacuo. Purification by flash chromatography (SiO2, EtOAc/iso-hexane) yields [(S)-1-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3,3-dimethyl-pent-4-enyl]-carbamic acid tert-butyl ester as a white solid; [M+H−BOC]+ 273.

reactant | DEAD | 4 mmol, 0.63 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | ((S)-1-Hydroxymethyl-3,3-dimethyl-pent-4-enyl)-carbamic acid tert-butyl ester | 4 mmol, 1 g | C(C)(C)(C)OC(N[C@@H](CC(C=C)(C)C)CO)=O | C13H25NO3
reactant | phthalimide | 4 mmol, 588 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 8 mmol, 3.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | [(S)-1-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3,3-dimethyl-pent-4-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(C=C)(C)C)CN1C(C2=CC=CC=C2C1=O)=O)=O | C21H28N2O4
